US07772253B2
N-[1-(3-Ethoxy-4-methyl-benzyl)piperidin-4-yl]-5-methyl-nicotinamide
The title compound (13 mg, 35%) was prepared analogously to example 30 from 5-methyl-N-(piperidin-4-yl)-nicotinamide and 3-ethoxy-4-methyl-benzaldehyde. MS: 368.5 (MH+).

reactant | 5-methyl-N-(piperidin-4-yl)-nicotinamide | CC=1C=NC=C(C(=O)NC2CCNCC2)C1 | C12H17N3O
reactant | 3-ethoxy-4-methyl-benzaldehyde | C(C)OC=1C=C(C=O)C=CC1C | C10H12O2
product | N-[1-(3-Ethoxy-4-methyl-benzyl)piperidin-4-yl]-5-methyl-nicotinamide | 13 mg, 35% | C(C)OC=1C=C(CN2CCC(CC2)NC(C2=CN=CC(=C2)C)=O)C=CC1C | C22H29N3O2
